US08877934B2
Step A: 1-Ethoxy-2,2,3,3,3-pentafluoro-propan-1-ol
Ethyl 2,2,3,3,3-pentafluoropropionate (10.99 grams, 57.2 mmol) was dissolved in anhydrous methanol (57 ml) and cooled under argon to −60° C. Sodium borohydride (2.16 grams, 57.2 mmol) was added in four portions. After the addition was complete, stirring was continued for one hour and the temperature was held below −45° C. The mixture was cooled to −60° C. and 1M hydrochloric acid (172 ml) was added dropwise so that the temperature remained below −45° C. The mixture was slowly warmed to room temperature and extracted with diethylether (3×100 ml). The combined organic phases were washed with water (two times), dried over magnesium sulfate, the solvent was removed under reduced pressure. 9.76 g (50.3 mmol, 88%) were obtained and used directly in the next step.

reactant | Ethyl 2,2,3,3,3-pentafluoropropionate | 57.2 mmol, 10.99 grams | FC(C(=O)OCC)(C(F)(F)F)F | C5H5F5O2
reactant | Sodium borohydride | 57.2 mmol, 2.16 grams | [BH4-].[Na+]
reactant | hydrochloric acid | 1M, 172 ml | Cl | ClH
solvent | methanol | 57 ml | CO | CH4O
product | 1-Ethoxy-2,2,3,3,3-pentafluoro-propan-1-ol | C(C)OC(C(C(F)(F)F)(F)F)O | C5H7F5O2
